US08044213B2
A mixture of 0.350 g (1.87 mmole) of 5-fluoro-2-methoxy-4-nitro-phenol, 0.568 g (2.25 mmole) of (3-bromo-propoxy)-tert-butyl-dimethyl-silane, 1.29 g (9.35 mmole) of potassium carbonate and 5 mL of dimethylformamide was heated at 60 degrees for 3 hours. The mixture was cooled, poured into 50 mL of dilute ammonium chloride solution and extracted three times with 25 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-hexanes (60:40) to give 0.469 g of tert-butyl-[3-(5-fluoro-2-methoxy-4-nitro-phenoxy)-propoxy]-dimethyl-silane (IV.42) as a white solid.

reactant | 5-fluoro-2-methoxy-4-nitro-phenol | 1.87 mmole, 0.350 g | FC=1C(=CC(=C(C1)O)OC)[N+](=O)[O-] | C7H6FNO4
reactant | (3-bromo-propoxy)-tert-butyl-dimethyl-silane | 2.25 mmole, 0.568 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | potassium carbonate | 9.35 mmole, 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl-[3-(5-fluoro-2-methoxy-4-nitro-phenoxy)-propoxy]-dimethyl-silane | 0.469 g | C(C)(C)(C)[Si](C)(C)OCCCOC1=C(C=C(C(=C1)F)[N+](=O)[O-])OC | C16H26FNO5Si
